Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abd pain, fever
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
HPI/EVENTS: ___ h/o PSC, seizure d/o admitted with RUQ pain and 
fever to 101.  Reports dark urine x 4 days, chills x 3 days and 
became febrile to 101 degrees today.  Also noted RUQ ache/pain 
occurring yesterday.  He contacted his outpt GI (Dr. ___ 
who encouraged obtaining  blood tests).  He went to to ___ ED 
where vitals were stable but labs were notable for WBC 6.3, 
AST/ALT 89/221., AP 185, TBili 1.32.  As a result of his PSC and 
need for ERCP, he was referred here to ___ for further 
eval.
    She went to ED and then taken to ___.  There strictures 
were found c/w PSC.  There was sludge, small stones, and pus 
removed.  Brush bxs were sent.  A CBD stent was placed.   He 
denies cp/sob/n/v/d.  On transfer, No complaints other than 
feeling hungry. 
. 
ROS: per HPI, denies headache, vision changes, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  A 10 pt review of sxs was 
otherwise negative.

 
Past Medical History:
# PSC - intrahepatic/extrahepatic
 - s/p ___ ERCP (Sphincterotomy and CBD stent placed which 
migrated on its own) 
# Juvenile Myoclonic Seizure
 
Social History:
___
Family History:
Father having PSC and ___ disease.  His father developed 
colon cancer at age ___.
 
Physical Exam:
Vital Signs: 97.9 115/79 65 18 96% RA 
glucose: 
. 
GEN: NAD, well-appearing, lying in bed, interactive, pleasant
EYES: PERRL, EOMI, conjunctiva clear, mildly icteric
ENT: moist mucous membranes, no exudates 
NECK: supple 
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: normal BS, NT/ND, no HSM, no RUQ tenderness  
EXT: warm, no c/c/e
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent
. 

 
Pertinent Results:
___ 10:50PM   WBC-6.3 RBC-5.17 HGB-15.6 HCT-45.2 MCV-87 
MCH-30.2 MCHC-34.5 RDW-12.8 RDWSD-40.9
___ 10:50PM   PLT COUNT-199
___ 10:50PM   GLUCOSE-100 UREA N-11 CREAT-0.8 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-24 ANION GAP-18
___ 10:50PM   ALT(SGPT)-286* AST(SGOT)-153* ALK PHOS-234* 
TOT BILI-3.5*
___ 10:50PM   LIPASE-41
___ 11:04PM   LACTATE-1.1

# ERCP (___): There was evidence of previous sphincterotomy 
and it appeared widely opened. Careful contrast injection 
revealed areas of short strictures and saccular dilation in the 
distal CBD, bifurcation and intrahepatic bliary tree consistent 
with patient's known history of PSC. The CBD was swept several 
times with successful removal of stone fragments, sludge and 
small amounts of pus material. Brushings were successfully 
obtained from the strictures at the level of the bifurcation and 
distal CBD for cytology and FISH. A ___ X 7cm ___ 
plastic biliary stent was successfully placed across the 
ampulla.  There was excellent spontaneous drainage of bile and 
contrast material at the end of the procedure. The PD was not 
injected or cannulated. 

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ h/o PSC, seizure d/o admitted with RUQ 
pain and fever to 101 c/w acute cholangitis 

# PSC
# RUQ pain, fever, transaminitis with ERCP signs of pus c/w 
cholangitis.  He went to ERCP where the stricture was dilated 
and brush biopsy was done (sent for cytology).  There was 
evidence of pus.  A sphincterotomy was performed with placement 
of a CBD stent.  He tolerated the procedure well without 
complications.
   He was treated with ciprofloxacin 500 mg BID (to be completed 
over 14 days).  He was kept NPO overnight - and the following 
day, he had no pain, nausea or vomiting - and thus was placed on 
clears and then quickly advanced to regular diet (which he 
tolerated without difficulty).  He will need to return in 4 
weeks for removal of the stent.  The brush bx cytology report 
can be followed up (he was instructed to call Dr. ___ 
___ for results).
   He was also seen by hepatology for evaluation of the PSC.  He 
was recommended to start ursodiol, and given an extra 
prescription of cipro (in case of infection).  He will be seen 
in liver clinic in 2 weeks.  

# Seizure: non-active.  No antiepileptics needed now. 

# OTHER ISSUES AS OUTLINED. 
. 
#FEN:   [X] IVF   [] Oral   [X] NPO   [] Tube Feeds   [] 
Parenteral
#DVT PROPHYLAXIS: None. Ambulatory
#LINES/DRAINS:   [X] Peripheral   [] PICC   [] CVL   [] Foley
#PRECAUTIONS: None
#COMMUNICATION: pt and wife
#CONSULTS: ERCP.  Await hepatology consult tomorrow
#CODE STATUS: Full Code

#DISPOSITION: home

 
Medications on Admission:
None
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*26 Tablet Refills:*2 
2.  Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute cholangitis
Progressive sclerosing cholangitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

   It was a pleasure looking after you. As you know, you were 
admitted with pain, fever, and chills with elevated liver 
function tests - which were consistent with an infected bile 
duct.  You underwent a procedure called ERCP, where strictures 
were found in your bile duct.  These strictures were dilated and 
a plastic stent was placed to keep the bile duct flowing well. 
   
    For the infection, please complete the antibiotics 
(Ciprofloxacin) for a total of 2 weeks.  You will also be 
scheduled for a return visit in 4 weeks to have the plastic 
stent removed.  Dr. ___ will contact you regarding 
the follow up date.  Also, the bile ducts were brushed and sent 
for pathology study to rule for cancer (occasionally, strictures 
are associated with cancer, but this is considered unlikely 
since the strictures are considered most attributable to the 
sclerosing cholangitis).  Please call Dr. ___ office at 
___ in 7 days for the pathology results.

You were also seen by the liver specialists during this 
hospitalization.  You are recommended to take Ursodiol twice a 
day as prescribed.   You will also be given an extra supply of 
ciprofloxacin (antibiotics), in the event you develop an 
infection.  You will have a follow up with the hepatology (liver 
specialist) clinic in 2 weeks for surveillance and management of 
the progressive sclerosing cholangitis. 

   We recommend to have your liver function test and blood cell 
count checked in 1 week at the primary care doctor office.  The 
results can be faxed to Dr. ___ Dr. ___ 
___ office at ___. ___.
   
   We wish you the best of luck and good health.

Your ___ Team
 

 
Followup Instructions:
___